### PR TITLE
Code review for #138

### PR DESCRIPTION
**Pull request by wkolowski**
Part 1 of code review for #138.

### CODE REVIEW

File: theories/VLSM/Lib/StreamExtras.v [hunk 1]
```diff
@@ -794,13 +793,15 @@ Lemma stream_concat_prefix {A} (s : Stream (ne_list A)) n len
...
 Proof.
-  intros ->; revert s prefix; induction n; [done |]; intros []; cbn.
+  intros ->; revert s prefix.
+  induction n; [done |].
+  intros [n0 s]; cbn.
   rewrite app_length.
-  assert (length (ne_list_to_list n0) +
-  length (mjoin (List.map ne_list_to_list (stream_prefix s n)))
-  ≥ length (ne_list_to_list n0)) by lia.
+  assert (H :
```
Comment (traiansf) [inline theories/VLSM/Lib/StreamExtras.v:800]: if you insist on giving it a name, could it be a "non-anonymous" one?

File: theories/VLSM/Lib/NeList.v [hunk 2]
```diff
@@ -28,16 +28,14 @@ Definition ne_list_foldr {A B} (f : A -> B -> B) (b : B) (l : ne_list A) :=
     match l with
     | ne_one a => f a b
     | ne_cons a nel => f a (fold nel)
-    end
-  ) l.
+    end) l.
```
Comment (traiansf) [inline theories/VLSM/Lib/NeList.v:31]: I guess here (and below) we should probably apply Karl's previous suggestion and bind the fix into a `let`

**Review by traiansf — APPROVED** [review]

File: theories/VLSM/Lib/StreamExtras.v (hunk 1 above)
Comment (wkolowski) [reply theories/VLSM/Lib/StreamExtras.v:800]: Yes, feel free to commit some changes here. I chose `H` because that was the default name.
